US08389249B2
Culture of L-Lysine-Producing Strain in which fadIJ Operon was Amplified
A glycerol stock of the strain in which fadIJ operon was amplified, the strain being obtained in of Example 9, was thawed. 100 μL of each was evenly spread on an LB agar medium plate containing 50 mg/L ampicillin and 25 mg/L streptomycin and incubated at 37° C. for 24 hours. About ¼ volume of bacterial cells on the plate was suspended in 1.0 mL of saline and turbidity thereof at a wavelength of 600 nm was measured by Spectrophotometer U-2000 (Hitachi). The obtained suspension containing the bacteria was inoculated into 40 mL of fermentation medium described below containing 50 mg/L ampicillin and 25 mg/L streptomycin in a 500 mL-Erlenmeyer flask equipped with baffles such that the turbidity thereof at a wavelength of 600 nm was 0.25; and cultured using a rotary shaking culture apparatus at a stirring rate of 200 rpm at 37° C. for 48 hours. As a carbon source in a main culture, sodium oleate added with polyoxyethylene sorbitan monooleic acid ester (Tween 80: manufactured by NACALAI TESQUE, INC.) as an emulsification promoter to a final concentration of 0.5% (w/v) was used. As for a total amount of carbon sources, sodium oleate was 10 g/L. The medium composition used for the culture is shown below.

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | U-2000 | CCCCO.CC(CO)O.C(CO)O
reactant | sodium oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].[Na+]
solvent | glycerol | OCC(O)CO | C3H8O3
product | L-Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
